US05633287
(a) 2,4,6-Triisopropylbenzyl alcohol
A solution of commercially available 2,4,6-triiso-propylbenzoyl chloride (35 g, 131.2 mmol) in 400 mL ether was added slowly to a suspension of lithium aluminum hydride (LAH) (4.89 g, 131.2 mmol) in ether (300 mL) at -15° C. The mixture was slowly warmed to room temperature over 18 hours. Saturated Na2SO4 solution was added slowly and the ether layer was separated, dried over MgSO4, and evaporated to dryness. The compound was used in the next step without further purification; NMR (CDCl3):δ1.2-1.4 (m, 18H), 2.8-3.0 (m, 1H), 3.3-3.5 (m, 2H), 4.8 (s, 2H), 7.1 (s, 2H) ppm.

reactant | 2,4,6-triiso-propylbenzoyl chloride | 131.2 mmol, 35 g | C(C)(C)C1=C(C(=O)Cl)C(=CC(=C1)C(C)C)C(C)C | C16H23ClO
reactant | lithium aluminum hydride | 131.2 mmol, 4.89 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | ether | 400 mL | CCOCC | C4H10O
solvent | ether | 300 mL | CCOCC | C4H10O
product | 2,4,6-Triisopropylbenzyl alcohol | C(C)(C)C1=C(CO)C(=CC(=C1)C(C)C)C(C)C | C16H26O
